US08536175B2
Step 25.1: (6-Amino-pyridin-3-yl)-(4-methyl-piperazin-1-yl)-methanone
The title compound was prepared in analogy to the procedure described in Step 14.1 but using 6-amino-nicotinic acid and 1-methylpiperazine. The reaction mixture was stirred overnight at 0° C. DCM was used for dilution and extraction instead of EtOAc. The dried organic phase was concentrated to afford an impure sample of the title compound which was used without further purification.

reactant | 6-amino-nicotinic acid | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | (6-Amino-pyridin-3-yl)-(4-methyl-piperazin-1-yl)-methanone | NC1=CC=C(C=N1)C(=O)N1CCN(CC1)C | C11H16N4O
